US07842696B2
HOBt (44.6 mg, 0.33 mmol) and DIPEA (136.7 mg, 1.06 mmol) were added to a stirred solution of 5-phenyl-isoxazole-3-carboxylic acid (50 mg, 0.27 mmol) in DMF (1.0 mL). The reaction mixture was then cooled to 10° C. and EDCI.HCl (63.3 mg, 0.33 mmol) was added, followed by the addition 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone (as TFA salt) (113.5 mg, 0.27 mmol). Then resulting mixture was stirred at room temperature overnight. The reaction mixture was then diluted with water and the product extracted with ethyl acetate. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated. The crude product thus obtained was purified by column chromatography using neutral alumina as stationary phase and 100% ethyl acetate as the eluent to afford 5-phenyl-isoxazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide as a solid in 20.3% yield. LC-MS purity: 98.075%, 1H NMR (DMSO-D6): δ 8.6 (s, 1H), 7.9 (m, 2H), 7.7 (m, 2H), 7.65 (m, 1H), 7.5 (m, 3H), 7.4 (s, 1H), 4.1 (m, 2H), 3.6 (m, 4H), 3.4 (m, 2H), 3.1 (m, 2H).

reactant | HOBt | 0.33 mmol, 44.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.06 mmol, 136.7 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-phenyl-isoxazole-3-carboxylic acid | 0.27 mmol, 50 mg | C1(=CC=CC=C1)C1=CC(=NO1)C(=O)O | C10H7NO3
reactant | EDCI.HCl | 0.33 mmol, 63.3 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone | 0.27 mmol, 113.5 mg | NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C14H16F3N3O2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-phenyl-isoxazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 20.3% yield | O=C(CNC(=O)C1=NOC(=C1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H21F3N4O4
